US07767704B2
Ethyl imidazole-2-carboxylate
34.7 g (150.9 mmol) of ethyl 1-benzyl-1H-imidazole-2-carboxylate are dissolved in 1005 ml of ethanol, and 34 g of ammonium formate are added. The reaction mixture is heated to reflux for about 6 h. Then a total of 8 g of 10% palladium on activated carbon and 18 g of ammonium formate is added in small portions. After cooling, the catalyst is filtered off and the filtrate is concentrated in vacuo. The product which crystallizes out is stirred in 80 ml of ice-water and filtered off with suction.

reactant | ethyl 1-benzyl-1H-imidazole-2-carboxylate | 150.9 mmol, 34.7 g | C(C1=CC=CC=C1)N1C(=NC=C1)C(=O)OCC | C13H14N2O2
reactant | ammonium formate | 34 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 18 g | C(=O)[O-].[NH4+]
solvent | ethanol | 1005 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 8 g | [Pd] | Pd
product | Ethyl imidazole-2-carboxylate | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
